US06031015
Synthesis of 2,5-dihexoxyterephthalic acid
A mixture of 8.91 g (135 mmol) 85% aqueous KOH solution and 20 ml water is added to 16.3 g (38.57 mmol) 2,5-dihexoxyterephthalic acid diethyl ester in 20 ml ethanol and the whole is stirred for 2 hours at 90° C. The crude product precipitated by the dropwise addition of 12.5 ml conc. HCl with ice-cooling is filtered off, washed neutral with water and recrystallized from ethanol.

reactant | KOH | 135 mmol, 8.91 g | [OH-].[K+]
reactant | water | 20 ml | O | H2O
reactant | 2,5-dihexoxyterephthalic acid diethyl ester | 38.57 mmol, 16.3 g | C(C)OC(C1=C(C=C(C(=O)OCC)C(=C1)OCCCCCC)OCCCCCC)=O | C24H38O6
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2,5-dihexoxyterephthalic acid | C(CCCCC)OC1=C(C(=O)O)C=C(C(=C1)C(=O)O)OCCCCCC | C20H30O6
